US08957070B2
N-(Methoxymethyl)-N-[1-(methoxymethyl)-2-(1-methyl-1H-1,2,4-triazol-5-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of N-(methoxymethyl)-N-[1-(methoxymethyl)-2-(1H-1,2,4-triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (0.70 g), methyl iodide (0.20 mL), potassium carbonate (0.25 g) and N,N-dimethylformamide (8 mL) was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.14 g, yield 19%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:4-1:0, volume ratio). melting point 110-111° C.

reactant | N-(methoxymethyl)-N-[1-(methoxymethyl)-2-(1H-1,2,4-triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.70 g | COCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(N(C12)COC)C1=NNC=N1 | C18H19N5O4S2
reactant | methyl iodide | 0.20 mL | CI | CH3I
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(Methoxymethyl)-N-[1-(methoxymethyl)-2-(1-methyl-1H-1,2,4-triazol-5-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.14 g, yield 19% | COCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(N(C12)COC)C1=NC=NN1C | C19H21N5O4S2
